US07223793B2
Preparation of 2-[3-(4-hydroxyphenyl)propionylamino]acetic acid ethyl ester
Following the same procedure of Example 4 except that 3-(4-hydroxyphenyl)propionic acid (1.0 g, 6.0 mmol) and glycine ethyl ester hydrochloride (0.94 g, 6.7 mmol) were used, 1.4 g of the title compound was obtained. The compound was finally purified by silica gel column chromatography (column size: 25 mm×150 mm, silica gel 70-230 mesh, eluent: hexane/EtOAc (1/1)). The results of analyses of the compound are as follows:

reactant | 3-(4-hydroxyphenyl)propionic acid | 6.0 mmol, 1.0 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | glycine ethyl ester hydrochloride | 6.7 mmol, 0.94 g | Cl.C(C)OC(CN)=O
product | 2-[3-(4-hydroxyphenyl)propionylamino]acetic acid ethyl ester | 1.4 g | C(C)OC(CNC(CCC1=CC=C(C=C1)O)=O)=O | C13H17NO4
